US06797823B1
N-{4-[(6,7-Dimethoxy-4-quinolyl)oxy]-2,3-dimethylphenyl}-N′-(2pyridyl)urea
4-[(6,7-Dimethoxy-4-quinolyl)oxy]-2,3-dimethyl-aniline (120 mg) was dissolved in chloroform (10 ml) and triethylamine (1 ml), and a solution of triphosgene (110 mg) in dichloromethane was then added to the solution. The mixture was stirred at room temperature for 30 min. Next, 2-aminopyridine (104 mg) was added to the reaction solution, and the mixture was heated under reflux overnight. Methanol was added to the reaction solution, and the solvent was removed by distillation under the reduced pressure. The residue was purified by chromatography on silica gel by development with chloroform/methanol (91/9) to give 72 mg (yield 44%) of the title compound.

reactant | 4-[(6,7-Dimethoxy-4-quinolyl)oxy]-2,3-dimethyl-aniline | 120 mg | COC=1C=C2C(=CC=NC2=CC1OC)OC1=C(C(=C(N)C=C1)C)C | C19H20N2O3
reactant | triphosgene | 110 mg | ClC(Cl)(OC(OC(Cl)(Cl)Cl)=O)Cl | C3Cl6O3
reactant | 2-aminopyridine | 104 mg | NC1=NC=CC=C1 | C5H6N2
reactant | Methanol | CO | CH4O
solvent | chloroform | 10 ml | C(Cl)(Cl)Cl | CHCl3
solvent | triethylamine | 1 ml | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | ClCCl | CH2Cl2
product | N-{4-[(6,7-Dimethoxy-4-quinolyl)oxy]-2,3-dimethylphenyl}-N′-(2pyridyl)urea | 72 mg, yield 44% | COC=1C=C2C(=CC=NC2=CC1OC)OC1=C(C(=C(C=C1)NC(=O)NC1=NC=CC=C1)C)C | C25H24N4O4
